US04505905
VI. 4-(tert-Butyldimethylsilyloxymethylene)-7,7-dichloro-6-oxobicyclo[3.2.0]hept-2-ene, 2:1 Mixture of cis/trans Isomers (10)
A 3-neck, 5 L flask equipped with a heating mantle, a mechanical stirrer, an argon inlet, and a pressure-equalized dropping funnel was charged with the 6-(tert-butyldimethylsilyloxy)fulvene from the previous Preparation dissolved in 2 L of cyclohexane. After this solution was brought to reflux, 150 mL of triethylamine was added in one portion. Then, 100 mL of dichloroacetyl chloride was added dropwise to the refluxing mixture over a 1.5 hr period. The cooled reaction mixture was diluted with 1.5 L of methylene chloride and filtered to remove the triethylamine hydrochloride by-product. The dark solution of the crude reaction product could be stored as such for a few days. The solvent was removed by evaporation immediately before its use in the next reaction.

reactant | 6-(tert-butyldimethylsilyloxy)fulvene | [Si](C)(C)(C(C)(C)C)OC=C1C=CC=C1 | C12H20OSi
reactant | triethylamine | 150 mL | C(C)N(CC)CC | C6H15N
reactant | dichloroacetyl chloride | 100 mL | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | cyclohexane | 2 L | C1CCCCC1 | C6H12
solvent | methylene chloride | 1.5 L | C(Cl)Cl | CH2Cl2
product | 4-(tert-Butyldimethylsilyloxymethylene)-7,7-dichloro-6-oxobicyclo[3.2.0]hept-2-ene | [Si](C)(C)(C(C)(C)C)OC=C1C=CC2C(C(C12)=O)(Cl)Cl | C14H20Cl2O2Si
